US07407950B2
N-(3-oxo-2H-benzoxazin-6-yl)-5-fluoro-1-[(3-fluorophenyl)methyl]-1H-indole-2-carboxamide
The process is performed according to the method described in Example 6, starting with 0.107 g of 6-amino-3-oxo-2H-benzoxazine (WO 2003/049702), 0.5 ml of trimethylaluminum (2M in toluene) and 0.157 g of ethyl 5-fluoro-1-[(3-fluorophenyl)methyl]-1H-indole-2-carboxylate, obtained in step 1.1 of Example 1. 0.053 g of product is obtained.

reactant | 6-amino-3-oxo-2H-benzoxazine | 0.107 g | NC=1C=CC2=C(CC(NO2)=O)C1 | C8H8N2O2
reactant | trimethylaluminum | 2M, 0.5 ml | C[Al](C)C
reactant | ethyl 5-fluoro-1-[(3-fluorophenyl)methyl]-1H-indole-2-carboxylate | 0.157 g | FC=1C=C2C=C(N(C2=CC1)CC1=CC(=CC=C1)F)C(=O)OCC | C18H15F2NO2
product | N-(3-oxo-2H-benzoxazin-6-yl)-5-fluoro-1-[(3-fluorophenyl)methyl]-1H-indole-2-carboxamide | 0.053 g | O=C1NOC2=C(C1)C=C(C=C2)NC(=O)C=2N(C1=CC=C(C=C1C2)F)CC2=CC(=CC=C2)F | C24H17F2N3O3
